US07462617B2
(c) 4-Methanesulfonyl-biphenyl-2-carboxylic acid
To 4-Methanesulfonyl-biphenyl-2-carboxylic acid methyl ester (1.00 g, 3.44 mmol) in 5 ml THF was added 5 M aq NaOH solution (7.58 ml, 37.9 mmol) and the mixture was heated at 60° C. for 16 h. The mixture was then cooled to RT, acidified to pH 1 with conc hydrochloric acid, and extracted 3 times with ethyl acetate. The combined organic phases were dried with Na2SO4. Evaporation in vacuo afforded the title compound (903 mg, 95%) as an off-white crystalline solid. MS (ISN): 275.1 M−H−.

reactant | 4-Methanesulfonyl-biphenyl-2-carboxylic acid methyl ester | 3.44 mmol, 1.00 g | COC(=O)C=1C(=CC=C(C1)S(=O)(=O)C)C1=CC=CC=C1 | C15H14O4S
reactant | NaOH | 37.9 mmol, 5 M, 7.58 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-Methanesulfonyl-biphenyl-2-carboxylic acid | 903 mg, 95% | CS(=O)(=O)C=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C14H12O4S
